US04400509
A mixture of 5.60 g (47.2 mmoles) of N-hydroxysuccinimide (purity 97%) and 46 mg (0.25 mmole) of saccharine was heated to 130° C. and 7.8 ml (37.5 mmoles) of hexamethyldisilazane were added. A fierce evolution of ammonia started immediately and was completed 15 minutes after the beginning of the addition of hexamethyldisilazane. The mixture was cooled and excess hexamethyldisilazane was distilled off at reduced pressure. The residue was fractionated to yield 7.70 g (87.2%) of N-trimethylsilyloxysuccinimide boiling at 109°-110° C. at 0.4 mm Hg. and melting at 55°-57° C.

reactant | N-hydroxysuccinimide | 47.2 mmoles, 5.60 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | hexamethyldisilazane | 37.5 mmoles, 7.8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
catalyst | saccharine | 0.25 mmole, 46 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | N-trimethylsilyloxysuccinimide | 7.70 g, 87.2% | C[Si](ON1C(CCC1=O)=O)(C)C | C7H13NO3Si
